US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-N′-({3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide (30 mg, 0.046 mmol), 1-methylhexahydro-1H-1,4-diazepine (52 mg, 0.46 mmol, 10 eq) and acetic acid (2.61 μL, 0.046 mmol, 1 eq) were dissolved in DMSO (1.5 mL). The mixture was stirred in VX-2500 Multi-Tube Vortexer for overnight at room temperature. MP-triacetoxyborohydride (137 mg, 0.319 mmol, 7 eq) was then added and the mixture was stirred again in VX-2500 Multi-Tube Vortexer for overnight at room temperature. The reaction mixture was filtered through a polypropylene cartridge (10 mL tube) on Bohdan Miniblock in a reaction tube and concentrated in a Glas-Col evaporator. The reaction mixture was then purified using a Gilson HPLC with a water-acetonitrile with 0.1% TFA buffer. The desired product fractions were combined, filtered through amine cartouche (500 mg) on Bohdan Miniblock and concentrated in a Glas-Col evaporator, giving 9.74 mg (25.4%) of the title compound. LC-MS m/z 757.4 (M+H)+, 1.26 min (ret time).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide | 0.046 mmol, 30 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC(=C2)C)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)C=O)CC | C39H42N6O4
reactant | 1-methylhexahydro-1H-1,4-diazepine | 0.46 mmol, 52 mg, 10 eq | CN1CCNCCC1 | C6H14N2
reactant | acetic acid | 0.046 mmol, 2.61 μL, 1 eq | C(C)(=O)O | C2H4O2
reactant | triacetoxyborohydride | 0.319 mmol, 137 mg, 7 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-N′-({3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | 9.74 mg, 25.4% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC(=C2)C)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2CCN(CCC2)C)CC | C45H56N8O3
